US08486970B2
To a solution of 330 mg of 3-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}benzoic acid in 5 ml of DMF was added 122 mg of CDI, followed by stirring at room temperature for 30 minutes. To the reaction solution were added 71 mg of methane sulfonamide and 0.11 ml of DBU, followed by stirring at room temperature for 3 hours. To the reaction solution was added ethyl acetate, followed by washing with 1 M hydrochloric acid and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then evaporated. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) to obtain a crude purified product. This was recrystallized with acetonitrile-water to obtain 273 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-N-({3-[(methylsulfonyl)carbamoyl]benzyl}oxy)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a white crystal.

reactant | 3-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}benzoic acid | 330 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC=1C=C(C(=O)O)C=CC1)=O)C1C(CCCC1)NS(=O)(=O)C | C31H31Cl2N3O7S
reactant | CDI | 122 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methane sulfonamide | 71 mg | CS(=O)(=O)N | CH5NO2S
reactant | DBU | 0.11 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-N-({3-[(methylsulfonyl)carbamoyl]benzyl}oxy)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 273 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC1=CC(=CC=C1)C(NS(=O)(=O)C)=O)=O)C1C(CCCC1)NS(=O)(=O)C | C32H34Cl2N4O8S2
